US04829099
Tripropylene glycol (57.6 g, 0.3 mole) was treated with p-nitrobenzoyl chloride (116 g, 0.625 mole), following the general procedure described in Example 1, Part A. The product, bis-(4-nitrobenzoyl)-tripropylene glycol (131 g), was obtained as a viscous yellow oil.

reactant | Tripropylene glycol | 0.3 mole, 57.6 g | CC(COC(C)COC(C)CO)O | C9H20O4
reactant | p-nitrobenzoyl chloride | 0.625 mole, 116 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | bis-(4-nitrobenzoyl)-tripropylene glycol | 131 g | [N+](=O)([O-])C1=CC=C(C(=O)C(C(COC(C)COC(C)CO)O)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C23H26N2O10
